US07687490B2
A solution of 10.68 g of 2-amino-4-ethoxycarbonyl-5-iodothiazole in 140 ml of DMF was cooled in ice under an argon atmosphere. t-Butylnitrite (6.15 ml) was added to the cooled solution, and the mixture was stirred at room temperature for 30 min. The reaction solution was poured into brine, and the mixture was extracted three times with ethyl acetate. The organic layers were combined, followed by washing three times with brine. The organic layer was dried over anhydrous magnesium sulfate, was filtered, and was concentrated under the reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=5:1 to 3:1) to give 5.08 g of 4-ethoxycarbonyl-5-iodothiazole.

reactant | 2-amino-4-ethoxycarbonyl-5-iodothiazole | 10.68 g | NC=1SC(=C(N1)C(=O)OCC)I | C6H7IN2O2S
reactant | t-Butylnitrite | 6.15 ml | C(C)(C)(C)ON=O | C4H9NO2
solvent | DMF | 140 ml | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 4-ethoxycarbonyl-5-iodothiazole | 5.08 g | C(C)OC(=O)C=1N=CSC1I | C6H6INO2S
